datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"NCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[N+:21](CCC#N)(CCC#N)[H:20].C[N+](C)(C)[O-:10]>>CC[N:21](CCC#N)CCC#N.C[N+](C)(C)[O:10][H:20] 10=20;20,21=21",
"CCCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])C=C1>>CCCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"O=S(=O)([N-]c1ncc(Cl)cn1)c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=S(=O)([N-]c1ncc(Cl)cn1)c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=CN1CC[NH:10]CC1.OCc1nc2cc(Cl)ccc2[n:21]1[H:20]>>O=CN1CC[NH+:10]([H:20])CC1.OCc1nc2cc(Cl)ccc2[n-:21]1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(C[NH2:10])Nc1ccc([N+](=O)[O-])cc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(C[NH2+:10][H:20])Nc1ccc([N+](=O)[O-])cc1 10=20;20,21=21",
"CC(O)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])=C1>>CC(O)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"C1CNC[NH+:21]([H:20])C1.c1ccc(-c2cc3ccc4cccnc4c3[n:10]c2)cc1>>C1CNC[NH:21]C1.c1ccc(-c2cc3ccc4cccnc4c3[n+:10]([H:20])c2)cc1 10=20;20,21=21",
"CCSC=[O+:21][H:20].Clc1cccc([NH:10]c2ccccc2)c1>>CCSC=[O:21].Clc1cccc([NH+:10](c2ccccc2)[H:20])c1 10=20;20,21=21",
"Cc1ccc(Cl)c(C(=O)[O-:10])c1.O=C(C(O)c1cccc([N+](=O)[O-])c1)[O:21][H:20]>>Cc1ccc(Cl)c(C(=O)[O:10][H:20])c1.O=C(C(O)c1cccc([N+](=O)[O-])c1)[O-:21] 10=20;20,21=21",
"CCCC(C(CC)CO)C(CC)C(=O)[O-:10].Cc1cc2cccc(O)c2[n+:21]([H:20])c1>>CCCC(C(CC)CO)C(CC)C(=O)[O:10][H:20].Cc1cc2cccc(O)c2[n:21]c1 10=20;20,21=21",
"CC1CCC[N+:21]1(C)[H:20].Cc1ccc(C2=[N:10]CCC2)cc1>>CC1CCC[N:21]1C.Cc1ccc(C2=[N+:10]([H:20])CCC2)cc1 10=20;20,21=21",
"CC(=O)NC1CO[N:21]([H:20])C1=O.O=C([O-])c1cccc([O-:10])c1>>CC(=O)NC1CO[N-:21]C1=O.O=C([O-])c1cccc([O:10][H:20])c1 10=20;20,21=21",
"COc1ccc(OC)c2c1n(C)c(CO)[n:10]2.C[C@H](CCC(=O)[O:21][H:20])[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C>>COc1ccc(OC)c2c1n(C)c(CO)[n+:10]2[H:20].C[C@H](CCC(=O)[O-:21])[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C 10=20;20,21=21",
"CCc1cc2ccc3cccnc3c2[n+:21]([H:20])c1.c1c[nH+]cc(-c2ccc[n:10]c2)c1>>CCc1cc2ccc3cccnc3c2[n:21]c1.c1c[nH+]cc(-c2ccc[n+:10]([H:20])c2)c1 10=20;20,21=21",
"CC[N:10](CC)C(C)C=C(c1cccs1)c1cccs1.COC(=O)N1c2ccccc2[C@@]23CC[N+:21]4([H:20])CC=C[C@]5(CC[C@]12[C@](O)(C(=O)OC)C5O)[C@@H]34>>CC[N+:10](CC)(C(C)C=C(c1cccs1)c1cccs1)[H:20].COC(=O)N1c2ccccc2[C@@]23CC[N:21]4CC=C[C@]5(CC[C@]12[C@](O)(C(=O)OC)C5O)[C@@H]34 10=20;20,21=21",
"CC(C)C([NH3+])C(=O)[O:21][H:20].CCCCC1(CC)C(=O)[N-]C(=S)[N-:10]C1=O>>CC(C)C([NH3+])C(=O)[O-:21].CCCCC1(CC)C(=O)[N-]C(=S)[N:10]([H:20])C1=O 10=20;20,21=21",
"O=C([O-])C(CO)NCc1ccccc1[O-:10].[NH3+]CCNC(=S)[S:21][H:20]>>O=C([O-])C(CO)NCc1ccccc1[O:10][H:20].[NH3+]CCNC(=S)[S-:21] 10=20;20,21=21",
"CC[NH:10]CCC(=O)[O-].C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC[NH+:10](CCC(=O)[O-])[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"N[N:21](C(=O)C(F)F)[H:20].O=C(/C(=N/[O-:10])c1ccccc1)c1ccccc1>>N[N-:21]C(=O)C(F)F.O=C(/C(=N/[O:10][H:20])c1ccccc1)c1ccccc1 10=20;20,21=21",
"COc1ccc(C2SCC[NH:10]2)cc1.S=C1Nc2cc3c(cc2[N:21]1[H:20])CCCC3>>COc1ccc(C2SCC[NH+:10]2[H:20])cc1.S=C1Nc2cc3c(cc2[N-:21]1)CCCC3 10=20;20,21=21",
"CC(=CC(=O)[O-])[O:21][H:20].CC[N:10]1CC[C@]2(C)c3cc(O)ccc3C[C@H]1[C@H]2C>>CC(=CC(=O)[O-])[O-:21].CC[N+:10]1([H:20])CC[C@]2(C)c3cc(O)ccc3C[C@H]1[C@H]2C 10=20;20,21=21",
"CCC[O-:10].N#CC1=CC=C([CH:21](C(=O)C2=CC=NC=C2)[H:20])C=C1>>CCC[O:10][H:20].N#CC1=CC=C([CH-:21]C(=O)C2=CC=NC=C2)C=C1 10=20;20,21=21",
"CC[N:10](c1ccccc1)C(C)(C)C.C[NH+](C)CCCCNc1cc[n+:21]([H:20])c2cccc([N+](=O)[O-])c12>>CC[N+:10](c1ccccc1)(C(C)(C)C)[H:20].C[NH+](C)CCCCNc1cc[n:21]c2cccc([N+](=O)[O-])c12 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1c(CN2CCNCC[NH:10]CC2)n[nH]c1CN1CCNCCNCC1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1c(CN2CCNCC[NH+:10]([H:20])CC2)n[nH]c1CN1CCNCCNCC1 10=20;20,21=21",
"CC[N:10](C)CC.C[N+:21](C)(CCC(=O)[O-])[H:20]>>CC[N+:10](C)(CC)[H:20].C[N:21](C)CCC(=O)[O-] 10=20;20,21=21",
"CC(=O)Nc1ccc(S(=O)(=O)[NH-:10])cc1.O=C([O-])C1CCCC[NH+:21]1[H:20]>>CC(=O)Nc1ccc(S(=O)(=O)[NH:10][H:20])cc1.O=C([O-])C1CCCC[NH:21]1 10=20;20,21=21",
"COCCSC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])C=C1>>COCCSC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"Cc1cc(-c2ccccc2)nn2cc(C)[n:10]c12.O=C(C1CCCOC1)[O:21][H:20]>>Cc1cc(-c2ccccc2)nn2cc(C)[n+:10]([H:20])c12.O=C(C1CCCOC1)[O-:21] 10=20;20,21=21",
"CC[NH+](CC)CCOc1ccccc1C(=O)N[O-:10].Cc1nc(N)cc([O:21][H:20])[nH+]1>>CC[NH+](CC)CCOc1ccccc1C(=O)N[O:10][H:20].Cc1nc(N)cc([O-:21])[nH+]1 10=20;20,21=21",
"C1=C(c2ccco2)C2CC[N+:21]1([H:20])CC2.O=[N+]([O-])c1ccc([O-])c([O-:10])c1>>C1=C(c2ccco2)C2CC[N:21]1CC2.O=[N+]([O-])c1ccc([O-])c([O:10][H:20])c1 10=20;20,21=21",
